US07514468B2
3-Z-[1-(4-(N-(dimethylamino-methylcarbonyl)-N-methyl-amino)-anilino)-1-(4-(imidazol-1-yl-methyl)-phenyl)-methylene]-6-chloro-2-indolinone
0.7 g of 1-acetyl-3-(1-chloro-1-(4-(imidazol-1-yl-methyl)-phenyl)-methylene)-6-chloro-2-indolinone (educt X.1), 0.4 g of N-(dimethylamino-methylcarbonyl)-N-methyl-p-phenylenediamine (educt XV.125) and 1.2 ml of triethylamine are dissolved in 10 ml of dimethylformamide and stirred for 15 hours at 60° C. After cooling, 10 ml of methanol and 2 ml concentrated ammonia are added and the mixture is stirred for a further three hours at ambient temperature. Water is added and the mixture is extracted with ethyl acetate. The organic phase is washed three times with water, dried over sodium sulphate and concentrated in the rotary evaporator. The residue is purified through a silica gel column with methylene chloride/methanol/ammonia 10:1:0.1 as eluant.

reactant | 1-acetyl-3-(1-chloro-1-(4-(imidazol-1-yl-methyl)-phenyl)-methylene)-6-chloro-2-indolinone | 0.7 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)Cl)=C(C1=CC=C(C=C1)CN1C=NC=C1)Cl)=O | C21H15Cl2N3O2
reactant | N-(dimethylamino-methylcarbonyl)-N-methyl-p-phenylenediamine | 0.4 g | CN(C)CC(=O)N(C1=CC=C(C=C1)N)C | C11H17N3O
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | 2 ml | N | H3N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 3-Z-[1-(4-(N-(dimethylamino-methylcarbonyl)-N-methyl-amino)-anilino)-1-(4-(imidazol-1-yl-methyl)-phenyl)-methylene]-6-chloro-2-indolinone | CN(C)CC(=O)N(C)C1=CC=C(N\C(\C2=CC=C(C=C2)CN2C=NC=C2)=C\2/C(NC3=CC(=CC=C23)Cl)=O)C=C1 | C30H29ClN6O2
